US04093617
3-Bromo-7-isopentyl-5-(1,1,1-trifluoromethyl)pyrazolo[1,5-a]pyrimidine
A solution of 4.0 gm (0.0155 mol) of 7-isopentyl-5-trifluoromethylpyrazolo[1,5-a]pyrimidine in 50 ml chloroform was cooled to 15° and 2.73 gm. (0.0155 mol) of N-bromosuccinimide was added. The solution was stirred for 30 minutes at ambient temperature, then poured on ice (50 gm, crushed). The chloroform layer was washed with sat. K2CO3 solution and then dried (Na2SO4) and chromatographed on neutral alumina (Woelm, grade I). Elution of the compound with chloroform, followed by evaporation of the solvent and distillation, afforded 4.0 gm (58%) of the product as an amber oil, b.p. 123°-126° /0.5 mm.

reactant | 7-isopentyl-5-trifluoromethylpyrazolo[1,5-a]pyrimidine | 0.0155 mol, 4.0 gm | C(CC(C)C)C1=CC(=NC=2N1N=CC2)C(F)(F)F | C12H14F3N3
reactant | N-bromosuccinimide | 0.0155 mol | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-7-isopentyl-5-(1,1,1-trifluoromethyl)pyrazolo[1,5-a]pyrimidine | 4.0 gm, 58% | BrC=1C=NN2C1N=C(C=C2CCC(C)C)C(F)(F)F | C12H13BrF3N3
